US05714479
To a dichloromethane(20 ml) solution of 6-methyl-3-(3,4-methylenedioxyphenylcarbonyl)pyridine-2-carboxylic acid methyl ester(1.75 g,5.85 mmol) was added mCPBA(1.73 g) under ice-cooling. The mixture was stirred at room temperature for 20 h and an aqueous solution of sodium thiosulfate was added to the mixture to quench the reaction. The mixture was neutralized with a saturated aqueous solution of NaHCO3 and extracted with dichloromethane. The organic layer was washed with brine, dried over MgSO4 and concentrated under reduce pressure to give 6-methyl-3-(3,4-methylenedioxyphenylcarbonyl)-2-methoxycarbonylpyridine N-oxide(1.57 g).

reactant | 6-methyl-3-(3,4-methylenedioxyphenylcarbonyl)pyridine-2-carboxylic acid methyl ester | 5.85 mmol, 1.75 g | COC(=O)C1=NC(=CC=C1C(=O)C1=CC2=C(C=C1)OCO2)C | C16H13NO5
reactant | mCPBA | 1.73 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 6-methyl-3-(3,4-methylenedioxyphenylcarbonyl)-2-methoxycarbonylpyridine N-oxide | 1.57 g | CC1=CC=C(C(=[N+]1[O-])C(=O)OC)C(=O)C1=CC2=C(C=C1)OCO2 | C16H13NO6
